US06956077B1
0.8 g of 3-aminopropyl methacrylamide hydrochloride was dissolved in a methanol solvent and 1.0 g of propionic anhydride and 0.9 g of triethylamine (TEA) were added thereto. The resultant mixture was stirred under ice-cooling for 4 hours. After the completion of the reaction, the solvent was distilled off with an evaporator and the precipitate was filtered off. The filtrate was recovered and introduced into a silica column. Thus, the eluate fraction containing the target product was taken up and subjected to recrystallization to thereby purify the target propionamide-propyl methacrylamide (yield: 95%). FIG. 2 shows the result of the mass spectrometry of the purified product while FIG. 3 shows the result of 1H-NMR thereof.

reactant | 3-aminopropyl methacrylamide hydrochloride | 0.8 g | Cl.NCCCC=C(C(=O)N)C
reactant | propionic anhydride | 1.0 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | propionamide propyl methacrylamide | yield: 95% | C(CC)(=O)N.C(CC)C=C(C(=O)N)C | InChI=1S/C7H13NO.C3H7NO/c1-3-4-5-6(2)7(8)9;1-2-3(4)5/h5H,3-4H2,1-2H3,(H2,8,9);2H2,1H3,(H2,4,5)
